US07635394B2
Synthesis of 2-ethoxy-pyrazolo[1,5-a]pyridin-3-ylamine trihydrochloride
Then 500 mg of ammonium chloride were added and then, in portions, 3.88 g of 2-ethoxy-3-nitropyrazolo[1,5-a]pyridine.

reactant | ammonium chloride | 500 mg | [Cl-].[NH4+]
reactant | 2-ethoxy-3-nitropyrazolo[1,5-a]pyridine | 3.88 g | C(C)OC1=NN2C(C=CC=C2)=C1[N+](=O)[O-] | C9H9N3O3
product | 2-ethoxy-pyrazolo[1,5-a]pyridin-3-ylamine trihydrochloride | Cl.Cl.Cl.C(C)OC1=NN2C(C=CC=C2)=C1N | InChI=1S/C9H11N3O.3ClH/c1-2-13-9-8(10)7-5-3-4-6-12(7)11-9;;;/h3-6H,2,10H2,1H3;3*1H
